US05017212
6-Benzylthio-5-chloroimidazo[2,1-b]thiazole
6-Benzylthioimidazo[2,1-b]thiazole (2.0 g) is dissolved in a mixture of 8 ml of dichloromethane and 40 ml of carbon tetrachloride. N-Chlorosuccinimide (1.2 g) is added to the solution during 10 minutes and stirred for an hour at room temperature. The insoluble product is filtered off and the filtrate is purified by silica gel chromatography (eluent: ethylacetate) to give 2.0 g of the title compound as an oil.

reactant | 6-Benzylthioimidazo[2,1-b]thiazole | 2.0 g | C(C1=CC=CC=C1)SC=1N=C2SC=CN2C1 | C12H10N2S2
reactant | N-Chlorosuccinimide | 1.2 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | carbon tetrachloride | 40 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 6-Benzylthio-5-chloroimidazo[2,1-b]thiazole | 2.0 g | C(C1=CC=CC=C1)SC=1N=C2SC=CN2C1Cl | C12H9ClN2S2
